US07872000B2
Hydrazine monohydrate (0.21 mL; 4.34 mmol; 1.2 equiv) was added to a suspension of 4-chloro-5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine (0.71 g; 3.62 mmol; 1.0 equiv) in 8 mL of EtOH. The reaction was heated at 60° C. overnight. The solid was filtered, washed with H2O and dried to give 4-hydrazino-5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine as an off-white solid (0.42 g; 60% yield).

reactant | Hydrazine monohydrate | 4.34 mmol, 0.21 mL, 1.2 equiv | O.NN
reactant | 4-chloro-5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine | 3.62 mmol, 0.71 g, 1.0 equiv | ClC=1C2=C(N=CN1)CCCCCC2 | C10H13ClN2
solvent | EtOH | 8 mL | CCO | C2H6O
product | 4-hydrazino-5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine | 60% yield | N(N)C=1C2=C(N=CN1)CCCCCC2 | C10H16N4
